US08242133B2
To a mixture of 0.25 g of 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol, 0.14 g of potassium carbonate and 3 ml of DMF, a mixture of 0.15 g of ethyl iodide and 1 ml of DMF was added at room temperature and stirred while heating at 60° C. for 1.5 hours. To the reaction mixture, 70 mg of potassium carbonate and 53 mg of iodoethane were added, and the reaction solution was stirred while heating at 60° C. for 3.5 hours. The reaction solution was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 60 mg of 2-(3-ethoxypyridin-4-yl)-6-trifluoromethyl-oxazolo[5,4-b]pyridine (hereinafter, referred to as “active compound 161”).

reactant | 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol | 0.25 g | FC(C=1C=C2C(=NC1)OC(=N2)C2=C(C=NC=C2)O)(F)F | C12H6F3N3O2
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | ethyl iodide | 0.15 g | C(C)I | C2H5I
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 53 mg | ICC | C2H5I
solvent | water | O | H2O
product | 2-(3-ethoxypyridin-4-yl)-6-trifluoromethyl-oxazolo[5,4-b]pyridine | 60 mg | C(C)OC=1C=NC=CC1C=1OC2=NC=C(C=C2N1)C(F)(F)F | C14H10F3N3O2
